### ISSUE TITLE
Bug: grind linarith crashes in the presence of conflicting `hAdd` instances

### ISSUE THREAD

**Issue by sonmarcho** [leanprover/lean4#13214]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The existence of overlapping instances of `hAdd` lead to a crash in grind linarith.

### Steps to Reproduce

Minimal reproducer:
```lean
@[reducible] def Poly := Vector (Fin 7) 4
 
-- Add and HAdd already exist for Vector
-- Redefining Add here creates another instance of HAdd (derived from Add)
@[reducible]
instance myAdd : Add Poly where -- an instance of HAdd is 
   add f g := Vector.map (fun i => f[i]! + g[i]!) (Vector.range 4)
 
 example (n : Nat) (p q : Poly) (hp : p + q = p) : n = n := by
   grind  -- ERROR: expected instHAdd to be defeq to instHAdd
```

Small variant (we directly redefine HAdd)
```lean
@[reducible] def Poly := Vector (Fin 7) 4
 
 instance myHAdd : HAdd Poly Poly Poly where
   hAdd f g := Vector.map (fun i => f[i]! + g[i]!) (Vector.range 4)
 
 example (n : Nat) (p q : Poly) (hp : p + q = p) : n = n := by
   grind  -- ERROR: expected myHAdd to be defeq to instHAdd
```

**Expected behavior:** grind doesn't crash

**Actual behavior:** grind crashes

### Versions

Tested on Lean 4.29.0

### Impact

Minor on my side as the fix is straightforward.

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
That's not a bug, but a feature, I believe. If you want to define new, separate instances  for your `Poly` type, don’t make that `@[reducible]`.

**Comment by sonmarcho** [comment]
I agree with the fact that we should not re-define instances. But what happened here is that I hadn't realized there was already an instance of `Add` for `Vector` and this only bit me (a long time) later when I had to debug a failure in a call to grind. Given the ease with which it is possible to define overlapping typeclass instances in Lean, it would be good to have a way of avoiding, or at least easily debugging, the failure above.

**Comment by nomeata** [comment]
My comment was less about redefining instances and more about definition instances that mention `reducible` definition in the first place. But I'm not an expert on the type class system, so I'm not sure if and when that is a good idea

**Comment by sonmarcho** [comment]
Yes, that's a bit tricky. In the case above I wanted `Poly` to be an abbreviation: the core issue is that I erroneously thought there did not exist instances of `Add` for `Vector` (I could have defined the `Add` instance over `Vector`, really), and the result was somewhat surprising (a seemingly unrelated failure in grind).

**Comment by sonmarcho** [comment]
I bumped into a similar issue recently (this one was harder to debug because the error seems unrelated). I'm not sure whether I should put it in a different issue.

```lean
def myAdd {n k : Nat} (f g : Vector (Fin n) k) : Vector (Fin n) k :=
  Vector.ofFn fun i => f[i] + g[i]
 
-- Inadvertently redefined an instance of `Add`
instance {n k : Nat} : Add (Vector (Fin n) k) where
  add := myAdd
 
example
    (p q r : Vector (Fin 3329) 256) (h : p = q + r)
    (k : Nat) (hk : k < 256) : k < 256 := by
  grind -- ❌ maximum recursion depth has been reached
```

**Comment by leodemoura** [comment]
@sonmarcho I took a look at this issue. Here are the examples using @nomeata suggestion. Both work as expected.

```lean
namespace Ex1 

def Poly := Vector (Fin 7) 4  -- Poly is not an abbreviation
 
instance myAdd : Add Poly where -- an instance of HAdd is 
   add f g := 
     -- Make sure we can use the `Vector` `GetElem` instances. 
     let f : Vector (Fin 7) 4 := f
     let g : Vector (Fin 7) 4 := g
     Vector.map (fun i => f[i]! + g[i]!) (Vector.range 4)
 
 example (n : Nat) (p q : Poly) (hp : p + q = p) : n = n := by
   grind

example
    (p q r : Vector (Fin 3329) 256) (h : p = q + r)
    (k : Nat) (hk : k < 256) : k < 256 := by
  grind 

end Ex1

namespace Ex2

structure Poly where -- Poly's representation is properly encapsulated. 
  val : Vector (Fin 7) 4
 
instance myAdd : Add Poly where -- an instance of HAdd is 
   add f g := 
     { val := Vector.map (fun i => f.val[i]! + g.val[i]!) (Vector.range 4) } 

 example (n : Nat) (p q : Poly) (hp : p + q = p) : n = n := by
   grind

example
    (p q r : Vector (Fin 3329) 256) (h : p = q + r)
    (k : Nat) (hk : k < 256) : k < 256 := by
  grind 

end Ex2
```
